US07163940B2
To a solution of 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-methyl-2-pyrimidinamine (100 mg, 0.237 mmol) in ethanol (1 mL) was added hydrazine (500 uL, 15.9 mmol). The reaction mixture was heated in a sealed tube at 90° C. for 72 hours. The mixture was cooled and diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate, water and brine. The combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (38:2 dichloromethane-methanol) provided N-cyclopentyl-4-[2-(4-fluorophenyl)-7-hydrazinopyrazolo[1,5-α]pyridin-3-yl]-6-methyl-2-pyrimidinamine (45 mg, 46%) as a yellow solid. Rf 0.43 (38:2 CH2Cl2-MeOH); 1H NMR (CDCl3) δ 7.78 (1H), 7.62 (2H), 7.35 (1H), 7.20 (1H), 7.12 (2H), 6.45 (1H), 6.24 (1H), 5.03 (1H), 4.35 (1H), 3.85 (2H), 2.18 (3H), 2.02 (2H), 1.62 (6H); MS m/z 418 (M+1).

reactant | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-methyl-2-pyrimidinamine | 0.237 mmol, 100 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)C)NC2CCCC2)C2=CC=C(C=C2)F | C23H21ClFN5
reactant | hydrazine | 15.9 mmol, 500 uL | NN | H4N2
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopentyl-4-[2-(4-fluorophenyl)-7-hydrazinopyrazolo[1,5-α]pyridin-3-yl]-6-methyl-2-pyrimidinamine | 45 mg, 46% | C1(CCCC1)NC1=NC(=CC(=N1)C=1C(=NN2C1C=CC=C2NN)C2=CC=C(C=C2)F)C | C23H24FN7
